Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Right eyelid swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with no significant
past medical history presenting with right eyelid swelling.

The patient reports that she hit her right eyelid against a car 
door
mirror on ___ last week. She experienced a small cut under 
her
right eye. She went to the ED on ___ due to some 
redness and
swelling of that eye. She didn't have eye pain, vision changes,
difficulty opening the eye or headache at that time. Her exam 
was
notable for swelling and erythema inferior to the right eye with
no superior swelling, ptosis or difficulty opening the eye, 
clear
conjunctiva. She was discharged from the ED on Augmentin.

She went home and took Augmentin as prescribed. However, the
swelling continued to progress and so she returned to the ED 
last
night on ___. A CT scan showed marked right periorbital 
cellulitis. No
evidence of orbital cellulitis. 

On the floor, she endorses some pain around the right eye but 
she
confirms the history given in the ED that she has no pain with
extraocular movements, no vision impairment and no headache.

She is worried and upset however, wondering if her eyelid will
always be swollen like this. She is also upset because on her
birthday this past ___, her grandmother died at this 
hospital,
and so being here is bringing back painful memories. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
No significant past medical history.
 
Social History:
___
Family History:
HTN and CAD
 
Physical Exam:
ADMISSION
VITALS: ___ ___ Temp: 97.7 PO BP: 104/73 R Sitting HR: 75
RR: 18 O2 sat: 100% O2 delivery: RA 
GENERAL: Alert, tearful
EYES: Significant swelling and erythema inferior to right eye.
Able to open eyelid though full opening limited by swelling.
Tenderness inferior to right eye but no pain with movement of
right eye. No pus, no drainage. No proptosis. 
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
===================================
DISCHARGE EXAM:
VITALS: ___ 0745 BP: 129/79 HR: 48 RR: 18 O2 sat: 97% O2 
delivery: Ra 
___ 1035 HR: 62 manual 
GENERAL: Alert, NAD, appears comfortable
EYES: Moderate swelling and erythema of right eye lid (lower > 
upper). Able
to open right eye fully, not limited by swelling or pain.  
Tender
to palpation inferior to right eye but no pain with movement of
right eye and EOMI.  No pus, no drainage. No proptosis. 
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate.  Mild
swelling of right cheek.  No palpable lymphadenopathy.
CV: RRR, no murmur, no S3, no S4.  2+ radial pulses bilaterally.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored on room air.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
GU: No Foley
MSK: Moves all extremities, strength grossly full and symmetric
bilaterally in all limbs
SKIN: No rashes or ulcerations noted; well-demarcated areas of 
erythema under right eye, does not extend down cheek or towards 
ear or neck; no fluctuance
NEURO: Alert, oriented, gaze conjugate with EOMI, speech fluent,
moves all limbs, sensation to light touch grossly intact
throughout
PSYCH: Calm, cooperative

 
Pertinent Results:
ADMISSION LABS:
___ 12:26AM   LACTATE-1.6
___ 12:09AM   GLUCOSE-133* UREA N-17 CREAT-0.8 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-108 TOTAL CO2-22 ANION GAP-12
___ 12:09AM   estGFR-Using this
___ 12:09AM   WBC-6.7 RBC-4.46 HGB-11.5 HCT-38.1 MCV-85 
MCH-25.8* MCHC-30.2* RDW-14.2 RDWSD-44.4
___ 12:09AM   NEUTS-40.4 ___ MONOS-6.0 EOS-1.9 
BASOS-0.7 IM ___ AbsNeut-2.70 AbsLymp-3.41 AbsMono-0.40 
AbsEos-0.13 AbsBaso-0.05
___ 12:09AM   PLT COUNT-238
=================================
IMAGING:
CT orbits, sella, IAC with contrast ___
IMPRESSION: 
1. Extensive right periorbital cellulitis without evidence for 
drainable fluid collection.  No evidence of postseptal orbital 
cellulitis. 
2. Occlusion of the left ostiomeatal infundibulum and adjacent 
mild mucosal thickening in the upper aspect of the left 
maxillary sinus. 
3. Diffuse heterogeneity of bilateral parotid glands.  8 x 8 mm 
right parotid nodule central hypodensity is most likely a 
reactive lymph node. 
RECOMMENDATION(S):  Outpatient right parotid ultrasound several 
months after resolution of the right periorbital cellulitis. 
=================================
DISCHARGE LABS:
___ 07:15AM BLOOD WBC-4.8 RBC-4.18 Hgb-10.9* Hct-34.8 
MCV-83 MCH-26.1 MCHC-31.3* RDW-14.1 RDWSD-42.9 Plt ___
___ 07:15AM BLOOD Glucose-86 UreaN-11 Creat-0.7 Na-145 
K-4.1 Cl-108 HCO3-25 AnGap-12
=================================
MICROBIOLOGY:
Blood culture ___: PENDING.  
MRSA screen: PENDING.
 
Brief Hospital Course:
Ms. ___ is a ___ female with no significant past 
medical history presenting with right pre-septal cellulitis.  
She is afebrile without leukocytosis.  

ACUTE/ACTIVE PROBLEMS:
#Preseptal cellulitis
Eyelid swelling and erythema with eyelid tenderness but 
reassuringly she has no pain with extraocular movements, no 
proptosis, no diplopia, no vision impairment, no leukocytosis, 
and CT without evidence of orbital cellulitis. She was initially 
said to have failed outpatient Augmentin, but on my review, she 
presented to the ED on ___, was prescribed Augmentin on 
discharge, and returned on ___, so I would not consider this to 
be a true failure of treatment. Reassured her that this is a 
treatable condition.  She was treated with IV ceftriaxone and 
vancomycin (___) and on ___, switched to Bactrim and 
Cefpodoxime to finish on ___.  MRSA was pending.  Blood 
culture was pending at discharge but no growth to date.  She was 
treated with PRN Tylenol, Toradol, Tramadol, Oxycodone.  

#Psychosocial distress: Regarding recent death of grandmother 
and about this acute
infection and needing to be in the hospital.  Patient requested 
additional support and social work was consulted.

#Cigarette smoking: She smokes 1 pack per day. Counseled on 
smoking cessation and given nicotine patch, which was prescribed 
on discharge.

#Right parotid gland: CT scan incidentally showed evidence 
suggestive of reactive lymph node. Recommend outpatient right 
parotid ultrasound to follow up this finding after cellulitis 
resolves.

TRANSITION OF CARE ISSUES:
- Follow up with PCP ___ ___, as she will be finished 
with antibiotic course and can assess for improvement/resolution
- Right parotid gland ultrasound as outpatient to look for 
reactive node.

============================
Check if applies: [ X ] Ms. ___ is clinically stable for 
discharge today. The total time spent today on discharge 
planning, counseling and coordination of care today was greater 
than 30 minutes.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Cefpodoxime Proxetil 400 mg PO Q12H 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth every twelve (12) 
hours Disp #*20 Tablet Refills:*0 
3.  Nicotine Patch 21 mg/day TD DAILY 
RX *nicotine 21 mg/24 hour 1 patch once a day Disp #*30 Patch 
Refills:*0 
4.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*10 Tablet Refills:*0 
5.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tab-cap by 
mouth twice a day Disp #*20 Tablet Refills:*0 
6.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Preseptal cellulitis
Tobacco dependence

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the hospital with a right eyelid infection, 
which is called cellulitis. We treated you with IV antibiotics 
and you were improving.  Fortunately, there was no evidence of 
infection of your eye.  You will complete the remainder of the 
antibiotics orally.  Please follow up with your primary care 
doctor later this week or the first part of next week, at which 
time your doctor can evaluate and see if you need any further 
antibiotics.  

For pain, you can take Tylenol ___ every 8 hours as needed 
and alternate with Aleve (naproxen) 500mg every 12 hours as 
needed.  These are over the counter.

It was a pleasure taking care of you.

Sincerely,
Your ___ team
 
Followup Instructions:
___